US07863298B2
Preparation of 4-{1-ethyl-1-[4-(3-hydroxy-3-methylbutyl)-3-methyl-phenyl]-propyl}-2-methylphenol
To a solution of 4-(4-{1-[4-(tert-butyl-dimethylsiloxy)-3-methylphenyl]-1-ethylpropyl}-2-methylphenyl)-2-methylbutan-2-ol (0.25 g, 0.50 mmol) in anhyd THF (1.5 mL) was added a 1.0M solution of TBAF in THF (0.70 mL, 0.70 mmol). After 1.5 h the reaction mixture was diluted with EtOAc (30 mL), washed with satd NH4Cl (20 mL) and brine, then dried (Na2SO4) and concentrated under reduced pressure. The crude material was chromatographed (silica, EtOAc/Hex, 0:100 to 40:60) to yield the title compound (0.14 g, 74%) as a white tacky solid: 1H-NMR (C6D6) δ 7.23-7.28 (2H, m), 7.16-7.22 (2H, m), 7.11 (1H, dd, J=2.3, 8.3), 6.64 (1H, d, J=8.3), 5.39 (1H, br s), 2.66 (2H, m), 2.25 (6H, s), 2.21 (4H, q, J=7.3), 1.62 (2H, m), 1.14 (6H, t, J=7.3).

reactant | 4-(4-{1-[4-(tert-butyl-dimethylsiloxy)-3-methylphenyl]-1-ethylpropyl}-2-methylphenyl)-2-methylbutan-2-ol | 0.50 mmol, 0.25 g | O([Si](C)(C)C(C)(C)C)C1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)CCC(C)(O)C)C)C | C30H48O2Si
reactant | THF | 1.5 mL | C1CCOC1 | C4H8O
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 0.70 mmol, 0.70 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-{1-ethyl-1-[4-(3-hydroxy-3-methylbutyl)-3-methyl-phenyl]-propyl}-2-methylphenol | 0.14 g, 74% | C(C)C(CC)(C1=CC(=C(C=C1)CCC(C)(C)O)C)C1=CC(=C(C=C1)O)C | C24H34O2
